### PR TITLE
Natural number arithmetic

### PR DESCRIPTION
**Pull request by patrick-nicodemus**
We add some theorems of natural number arithmetic involving pred, S,  + , -, < and <=.
We define a hint database for natural number arithmetic and add some lemmas to it.
We define a "left-handed" <= as an inductive type in the other obvious way, namely:
n <= n
n + 1 <= m  ->  n <= m
and prove it's equivalent to the other one.
This is useful for cases where you want to loop from 0 to m, going from bottom to top; if you induct on the normal definition of <= then you will loop from top to bottom.

### CODE REVIEW

File: theories/Spaces/natural_number_arithmetic.v [hunk 1]
```diff
@@ -0,0 +1,794 @@
...
+
+Proposition not_lt_implies_geq {n m : nat} : ~(n < m) -> m <= n.
+Proof.
+  intros not_lt. apply stable. intro not_geq.
+  destruct (@leq_dichot m n).
+  - contradiction not_geq.
+  - contradiction not_lt.
+Defined.
+
+Class ComplementaryProp (A B : Type) :=
```
Comment (mikeshulman) [inline theories/Spaces/natural_number_arithmetic.v:64]: This is a general definition not specific to natural numbers, so I would put it in a separate file.  Perhaps `Basics/Decidable`?

File: theories/Spaces/natural_number_arithmetic.v [hunk 2]
```diff
@@ -0,0 +1,794 @@
...
+  - intros m k. change (n.+1 + (m + k)) with (n + (m + k)).+1.
+    apply (transitive_paths _ _ _ (nat_add_n_Sm _ _)).
+    change (m + k).+1 with (m.+1 + k);
+    change (n.+1 + m) with (n + m).+1.
+    apply (transitive_paths _ _ _ (IHn m.+1 k)).
+    apply (ap (fun zz => zz + k)).
+    apply symmetric_paths, nat_add_n_Sm. 
+Defined.
+
+Fixpoint leq_bool (n m : nat) : Bool :=
```
Comment (mikeshulman) [inline theories/Spaces/natural_number_arithmetic.v:35]: This and some other definitions in this file have names that don't make sense globally, as they don't specify that they involve `nat`.

File: theories/Spaces/natural_number_arithmetic.v [hunk 3]
```diff
@@ -0,0 +1,794 @@
...
+Proposition lt_sub_gt_0 : forall n m : nat, m < n -> 0 < n - m.
+Proof.
+  induction n.
+  - intros m ineq. contradiction (not_lt_n_0 m).
+  - induction m.
+    + simpl. easy.
+    + simpl. intro ineq. apply leq_S_n in ineq. now apply IHn in ineq.
+Defined.
+
+Proposition natminuspluseq : forall n m : nat, n <= m -> (m - n) + n = m.
```
Comment (mikeshulman) [inline theories/Spaces/natural_number_arithmetic.v:272]: Generally we use underscores to separate words in the names of definitions and theorems.

**Review by mikeshulman — CHANGES_REQUESTED** [review]
This looks pretty good to me.  Aside from the points I mentioned specifically, I think a better name for the file would be something like `Spaces/Nat/Arithmetic`.

File: theories/Basics/Decidable.v [hunk 4]
```diff
@@ -14,6 +14,13 @@ Local Open Scope path_scope.
 (** ** Definitions *)
 
 (* NB: This has to come after our definition of [not] (which is in [Overture]), so that it refers to our [not] rather than the one in [Coq.Logic]. *)
+
+Class ComplementaryProp (A B : Type) :=
```
Comment (mikeshulman) [inline theories/Basics/Decidable.v:18]: Maybe put it at the end of the file?  In this place, it breaks the referent "this" in the preceding comment, which is supposted to refer to the definition of `Decidable` below.

**Comment by mikeshulman** [comment]
Did you force-push the right thing?  Now it looks like the *only* change in this PR is adding `ComplementaryProp`.

File: theories/Basics/BooleanReflection.v [hunk 5]
```diff
@@ -0,0 +1,75 @@
...
+    - intro r; destruct r.
+      + split; done.
+      + split; [ contradiction | discriminate ].
+    - intro H; destruct H as [if1 if2].
+      destruct b.
+      + apply ReflectT, if2; reflexivity.
+      + apply ReflectF; intro p; apply if1 in p; discriminate.
+  Defined.
+
+  Proposition refl_tofalse (A : Type) (b : Bool) (p : reflect A b) : ~ A -> b = false.
```
Comment (jdchristensen) [inline theories/Basics/BooleanReflection.v:20]: Is "refl" short for "reflect"?  "refl" is used for the reflexivity path in the HoTT book, so I think it would be better to use "reflect" here.

File: theories/Basics/BooleanReflection.v [hunk 6]
```diff
@@ -0,0 +1,75 @@
...
+  Proof.
+    destruct p; done.
+  Defined.
+
+  Proposition refl_totrue (A : Type) (b : Bool) (p : reflect A b) : A -> b = true.
```
Comment (jdchristensen) [inline theories/Basics/BooleanReflection.v:25]: Maybe be consistent about using A, B, ... vs P, Q, ...?

File: theories/Basics/BooleanReflection.v [hunk 7]
```diff
@@ -0,0 +1,75 @@
...
+  Proof.
+    unfold decBool; destruct dec; constructor; assumption.
+  Defined.
+  
+  Proposition decBoolSum (A B: Type) `{H0 : Decidable A} `{H1 : Decidable B} :
+    decBool (A + B) = orb (decBool A) (decBool B).
+  Proof.
+    unfold decBool.
+    unfold dec, decidable_sum at 1, dec. destruct H0, H1; done.
+  Qed.
```
Comment (jdchristensen) [inline theories/Basics/BooleanReflection.v:46]: We usually use "Defined" unless there is a good reason not to.

File: theories/Classes/implementations/assume_rationals.v [hunk 8]
```diff
@@ -10,7 +10,7 @@ Parameters (Q : Type@{UQ}) (Qap : Apart@{UQ UQ} Q)
   (Qzero : Zero Q) (Qone : One Q) (Qneg : Negate Q) (Qrecip : DecRecip Q)
   (Qle : Le@{UQ UQ} Q) (Qlt : Lt@{UQ UQ} Q)
   (QtoField : RationalsToField@{UQ UQ UQ UQ} Q)
-  (Qrats : Rationals@{UQ UQ UQ UQ UQ UQ UQ UQ} Q)
+  (Qrats : Rationals@{UQ UQ UQ UQ UQ UQ UQ UQ UQ UQ} Q)
```
Comment (jdchristensen) [inline theories/Classes/implementations/assume_rationals.v:13]: I'm surprised that *additional* universe variables are required.  Any idea how that happened?

File: theories/Classes/interfaces/abstract_algebra.v [hunk 9]
```diff
@@ -184,7 +184,7 @@ Section upper_classes.
   #[export] Existing Instances decfield_ring.
 
   Class FieldCharacteristic@{j} {Aap : Apart@{i j} A} (k : nat) : Type@{j}
-    := field_characteristic : forall n : nat, Nat.lt@{i} 0 n ->
+    := field_characteristic : forall n : nat, Nat.lt 0 n ->
```
Comment (jdchristensen) [inline theories/Classes/interfaces/abstract_algebra.v:187]: Can the universe variable `i` be completely eliminated here?  (If not, it should be listed alongside the `j` in `FieldCharacteristic@{j}`.)

File: theories/Spaces/Nat.v [hunk 10]
```diff
@@ -514,7 +514,10 @@ Proof.
 Defined.
 
 (** We define the less-than relation [lt] in terms of [leq] *)
-Definition lt n m : Type := leq (S n) m.
+Definition lt n m : Type0 := leq (S n) m.
+Set Printing Universes.
+Print lt.
```
Comment (jdchristensen) [inline theories/Spaces/Nat.v:519]: Remove.

File: theories/Spaces/Nat/Arithmetic.v [hunk 11]
```diff
@@ -0,0 +1,1032 @@
...
+  Proposition Sleq_implies_leq (n m : nat) : Sleq n m -> Nat.leq n m.
+  Proof.
+    revert m; induction n.
+    + intros; apply leq_0_n.
+    + intros m H. simpl in H. destruct m; [ destruct H |].
+      apply leq_S_n', IHn; exact H.
+  Defined.
+
+  Check leq_rect.
+  Definition Sleq_rect :
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:56]: `:` at start of next line, after two spaces.

File: theories/Spaces/Nat/Arithmetic.v [hunk 12]
```diff
@@ -0,0 +1,1032 @@
...
+  Definition Sleq_rect : 
+      forall (n : nat) (P : forall m : nat, Sleq n m -> Type),
+        P n (Sleq_refl n) ->
+        (forall (m : nat) (l : Sleq n m), P m l -> P (m.+1)%nat (Sleq_S n m l)) ->
+        forall (m : nat) (l : Sleq n m), P m l.
+  Proof. intros n P diag succ m l.
+         change l with (leq_implies_Sleq n m (Sleq_implies_leq n m l)).
+         induction (Sleq_implies_leq n m l).
+         - apply diag.
+         - apply succ, IHl0, leq_implies_Sleq; assumption.
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:65]: Incorrect indentation.

File: theories/Spaces/Nat/Arithmetic.v [hunk 13]
```diff
@@ -0,0 +1,1032 @@
...
+  | [ H : ?n > ?n |- _ ] => contradiction (not_lt_n_n n)
+  | [ H : ?n < ?n |- _ ] => contradiction (not_lt_n_n n)
+  end.
+
+Global Hint Resolve not_lt_n_n : nat.
+Global Hint Resolve not_lt_n_0 : nat.
+Global Hint Resolve not_leq_Sn_0 : nat.
+Global Hint Extern 2 => nat_absurd_trivial : nat.
+
+(* Proposition iff_reflect (P : Type) (b : Bool) : (reflect P b) <-> (P <-> b = true). *)
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:85]: Lots of commented out stuff?

File: theories/Spaces/Nat/Arithmetic.v [hunk 14]
```diff
@@ -0,0 +1,1032 @@
...
+Proposition add_n_sub_n_eq : forall m n : nat,  m + n - n = m.
+Proof.
+  intros m n; destruct m.
+  - induction n.
+    + reflexivity.
+    + assumption.
+  - induction n.
+    + simpl. rewrite nat_add_comm. reflexivity.
+    + simpl. rewrite <- nat_add_n_Sm. assumption.
+Qed.
```
Comment (jdchristensen) [inline theories/Spaces/Nat/Arithmetic.v:372]: `Defined`, here and elsewhere?

**Review by jdchristensen — COMMENTED** [review]
I'm not really able to review the overall approach here.  My comments are mainly minor stylistic issues.  (Also, this appears to be WIP.  Maybe mark it as "draft" until it is ready for full review?)

File: theories/Classes/implementations/assume_rationals.v (hunk 8 above)
Comment (jdchristensen) [reply theories/Classes/implementations/assume_rationals.v:13]: (This comment and the one about `FieldCharacteristic` might be related.  It's possible that by removing the universe variable from `lt`, some universe variables become "freer", which means that in subsequent definitions, they aren't forced to be equal.  And then those subsequent definitions end up with *more* universe parameters.  So it would be worth checking whether some universe variables (like the `i` in `FieldCharacteristic`) can be eliminated.  Semantically, it's not clear why the rationals need any universe variables at all...)

File: theories/Classes/interfaces/abstract_algebra.v (hunk 9 above)
Comment (SkySkimmer) [reply theories/Classes/interfaces/abstract_algebra.v:187]: i is the universe of A from the section, section universes are not listed in the @{}

File: theories/Basics/SProp.v [hunk 15]
```diff
@@ -0,0 +1,67 @@
+Require Import Basics Types.Sigma.
+
+Record Box (A : SProp) : Type0 := box { unbox : A }.
```
Comment (SkySkimmer) [inline theories/Basics/SProp.v:3]: Unset Primitive Projections around this record to remove the warning

File: theories/Basics/BooleanReflection.v (hunk 5 above)
Comment (patrick-nicodemus) [reply theories/Basics/BooleanReflection.v:20]: Ok, this is a good point.

File: theories/Classes/implementations/assume_rationals.v (hunk 8 above)
Comment (patrick-nicodemus) [reply theories/Classes/implementations/assume_rationals.v:13]: This is not clear to me either. My guess is that since this is an interface, the idea is that the underlying structures which implement it could potentially be arbitrarily complex as long as they expose the desired functionality to the user?

File: theories/Basics/BooleanReflection.v (hunk 6 above)
Comment (patrick-nicodemus) [reply theories/Basics/BooleanReflection.v]: Yep, agreed.

**Comment by patrick-nicodemus** [comment]
> I'm not really able to review the overall approach here. My comments are mainly minor stylistic issues. (Also, this appears to be WIP. Maybe mark it as "draft" until it is ready for full review?)

Ok, marked as draft for the time being. I would appreciate you continuing to make comments and suggestions anyway, please let me know when you think it is appropriate for it to be ready for full review. I would rather have small parts integrated if they are useful than try to submit a big monolithic chunk of code and discuss it for a long time.

File: theories/Basics/SProp.v (hunk 15 above)
Comment (patrick-nicodemus) [reply theories/Basics/SProp.v]: Thank you, done.

File: theories/Spaces/Nat/Arithmetic.v [hunk 16]
```diff
@@ -0,0 +1,950 @@
...
+Require Import Basics.Tactics.
+Require Import Types.Bool.
+Require Import Types.Sum.
+Require Import Basics.Utf8.
+
+Require Import Basics.Nat.
+Require Import Basics.Decidable.
+Require Import BooleanReflection.
+(* This prefix seems necessary to avoid conflict with Coq.Init.Sprop? *)
+Require Import HoTT.SProp.
```
Comment (SkySkimmer) [inline theories/Spaces/Nat/Arithmetic.v:11]: There is no Coq.Init.Sprop, only Coq.Logic.StrictProp

**Comment by mikeshulman** [comment]
> I would rather have small parts integrated if they are useful than try to submit a big monolithic chunk of code and discuss it for a long time.

That's a good idea and would make it easier to review.  But in that case, you should separate out the small parts into separate pull requests.  For instance, it would probably be appropriate to have separate PRs for the boolean stuff and for the sprop stuff.

File: theories/Spaces/Nat/Arithmetic.v (hunk 14 above)
Comment (patrick-nicodemus) [reply theories/Spaces/Nat/Arithmetic.v]: Thanks, all theorems in this file have been changed to Defined.
The style guide makes the following statements:

> If the value of something being defined matters, then you must either give an explicit term defining it, or construct it with tactics and end the proof with Defined. But if all that matters is that you have defined something with a given type, you can construct it with tactics and end the proof with Qed. The latter makes the term "opaque" so that it doesn't "compute".
> 
>  If something can be made opaque, it is generally preferable to do so, for performance reasons. However, many things which a traditional type theorist would make opaque cannot be opaque in homotopy type theory. For instance, none of the higher-groupoid structure in PathGroupoids can be made opaque, not even the "coherence laws". If you doubt this, try making some of it opaque and you will find that the "higher coherences" such as pentagon and eckmann_hilton will fail to typecheck.

You said earlier that "We usually use "Defined" unless there is a good reason not to." I think it would be helpful to clarify this point in the style guide. For example,
> The important thing is that when defining a transparent term with tactics, you should restrict yourself to tactics which maintain a high degree of control over the resulting term; ... Even plain rewrite is usually to be avoided in this context: although the terms it produces are at least predictable, they are one big transport (under a different name) whereas a term we would want to reason about ought to be constructed using smaller pieces like ap and concat which we can understand.

Since the proof uses rewrites, I terminated the proof with Qed. 
I discussed this issue the other day with @mikeshulman in the Zulip and he said that the proof terms that arise from running destruct on an equality are less complex than those arising from rewrite, so here I was able to replace all "rewrites" with "destructs" and there is no conflict.

File: theories/Basics/BooleanReflection.v (hunk 5 above)
Comment (patrick-nicodemus) [reply theories/Basics/BooleanReflection.v]: I have removed those theorems in the new commit. I am thinking I will use the theorem names in here.
https://coq.inria.fr/distrib/V8.16.0/stdlib/Coq.ssr.ssrbool.html

File: theories/Spaces/Nat/Arithmetic.v (hunk 16 above)
Comment (patrick-nicodemus) [reply theories/Spaces/Nat/Arithmetic.v:11]: Ok, thank you. I don't know what the error is. "Require SProp" and "Require Import SProp" give errors which I don't understand.

**Comment by Alizter** [comment]
Regarding the proof terms of rewrite. Now that we have 8.16 we could start using the generalized rewriting feature of Coq (formly setoid_rewrite). If we spent some time setting this up we could have nice proof terms when doing rewrites. It would be similar to an attempt at nice rewrite terms by @jdchristensen from a few years ago.

**Comment by patrick-nicodemus** [comment]
@mikeshulman Ok, I got overly excited. SProp and BooleanReflection stuff deleted from the commit so we can just talk about natural number arithmetic stuff, I will open a second PR request soon for the boolean reflection stuff, SProp stuff seems like it might need further discussion.

File: theories/Spaces/Nat/Arithmetic.v (hunk 14 above)
Comment (mikeshulman) [reply theories/Spaces/Nat/Arithmetic.v]: I would actually be inclined to make these `Qed`s as you originally had them.  Firstly, because of the rewrites, the resulting proof terms are not going to be very nice to look at; and secondly, they inhabit hprops (equalities in nat), so at least propositionally their definitional value doesn't matter.  It seems unlikely to me that we would ever need these to be transparent.

Comment (mikeshulman) [reply theories/Spaces/Nat/Arithmetic.v]: In particular, aAs you quoted from the style guide, I think that elsewhere we do often use `Qed` for proofs involving `rewrite`.  I think there are some places where we found some value in making rewrite proofs transparent, but I thought in general we were sticking to Qed for rewrite proofs.

File: theories/Spaces/Nat/Arithmetic.v (hunk 16 above)
Comment (SkySkimmer) [reply theories/Spaces/Nat/Arithmetic.v]: Probably because SProp is a keyword ie treated specially by the parser

**Comment by SkySkimmer** [comment]
Is setoid_rewrite considered to have nice proof terms?

**Comment by Alizter** [comment]
@SkySkimmer Since we can give the rewrite instances directly, we can fill it with concatenations and aps depending on the form of the term.

File: theories/Classes/implementations/assume_rationals.v (hunk 8 above)
Comment (jdchristensen) [reply theories/Classes/implementations/assume_rationals.v:13]: Right, since it's an interface, it should accommodate implementations that don't live in `Type0`.  But I'm still confused why additional universe variables appeared.  The attached screenshot shows how the universe variables changed in `Rationals`.  The new variables are u7 and u8, and in the old version they were always replaced by u6.  Odd.  Not a big deal, but I'm just curious, as I hoped that changing `lt` would *reduce* universe variables elsewhere.

Screenshot from 2022-10-10 09-49-48

File: theories/Classes/interfaces/abstract_algebra.v (hunk 9 above)
Comment (jdchristensen) [reply theories/Classes/interfaces/abstract_algebra.v:187]: Ah, sorry, I missed that `i` was defined earlier and is an important universe variable that can't be eliminated.

File: theories/Classes/implementations/assume_rationals.v (hunk 8 above)
Comment (SkySkimmer) [reply theories/Classes/implementations/assume_rationals.v:13]: What does the change in RationalsToField look like?

File: theories/Classes/interfaces/abstract_algebra.v (hunk 9 above)
Comment (patrick-nicodemus) [reply theories/Classes/interfaces/abstract_algebra.v:187]: Is this resolved?

File: theories/Classes/implementations/assume_rationals.v (hunk 8 above)
Comment (jdchristensen) [reply theories/Classes/implementations/assume_rationals.v:13]: (Even though we didn't get to the bottom of why extra universe variables appear here, I don't think this should hold up this PR.)

**Comment by patrick-nicodemus** [comment]
@mikeshulman Your original "changes requested" applied to an early draft of this PR before I threw out a bunch of independent things like stuff related to boolean reflection or SPRop. Can you take another look at it and update the changes requested?
